US07977477B2
A mixture of 2-amino-3-nitrobenzyl alcohol (1.4 g) and 10% Pd/C (140 mg) in EtOH (40 ml) and DMF (10 ml) was stirred under an atmosphere of hydrogen at ambient temperature for 18 h. The catalyst was removed by filtration through Celite, the filtrate reduced in vacuo and azeotroped with toluene (2×50 ml) to give 2,3-diaminobenzyl alcohol (1.15 g) as a dark brown solid.

reactant | 2-amino-3-nitrobenzyl alcohol | 1.4 g | NC1=C(CO)C=CC=C1[N+](=O)[O-] | C7H8N2O3
solvent | EtOH | 40 ml | CCO | C2H6O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
catalyst | Pd/C | 140 mg | [Pd] | Pd
product | 2,3-diaminobenzyl alcohol | 1.15 g | NC1=C(CO)C=CC=C1N | C7H10N2O
